US08053440B2
A mixture of 2-amino-4,6-dimethoxybenzamide (0.060 g, 0.306 mmol), 2-methylbenzaldehyde (0.037 g, 0.306 mmol), NaHSO3 (0.032 g, 0.306 mmol), and p-TsOH.H2O (0.00370 g, 0.021 mmol) in DMA (5.00 mL) was heated at 60° C. overnight. The mixture was cooled to room temperature, water (50.0 mL) and EtOAc (50.0 mL) was added. The layers were separated and the organic layer was washed with water (2×50 mL), brine (50 mL), dried and concentrated. The crude solid was purified via CombiFlash provide 5,7-dimethoxy-2-o-tolylquinazolin-4(3H)-one (0.025 g, 28%) as yellow solid. Selected data: 1H NMR (300 MHz, CDCl3) δ 9.51 (s, 1H), 7.53 (dd, J=5.92, 3.07 Hz, 1H), 7.46-7.36(m, 1H), 7.32 (dd, J=9.04, 4.60 Hz, 2H), 6.81 (d, J=2.29 Hz, 1H), 6.49 (d, J=2.28 Hz, 1H), 3.95 (s, J=7.48 Hz, 3H), 3.94-3.88(s, 3H), 2.51 (s, 3H); MS (APCI) m/z 297 [M+H]+.

reactant | 2-amino-4,6-dimethoxybenzamide | 0.306 mmol, 0.060 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 2-methylbenzaldehyde | 0.306 mmol, 0.037 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | NaHSO3 | 0.306 mmol, 0.032 g | OS(=O)[O-].[Na+]
reactant | p-TsOH.H2O | 0.021 mmol, 0.00370 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | DMA | 5.00 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 50.0 mL | CCOC(=O)C | C4H8O2
solvent | water | 50.0 mL | O | H2O
product | 5,7-dimethoxy-2-o-tolylquinazolin-4(3H)-one | 0.025 g, 28% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=C(C=CC=C1)C)=O | C17H16N2O3
